US05420298
Using an analogous procedure to that described in the portion of Example 1 which is concerned with the preparation of starting materials, 3-benzyloxybromobenzene was reacted with 1-ethoxycarbonyl-2-methylpyrrolidin-3-one (J. Med. Pharm. Chem., 1962, 5, 755) and the resultant product was reacted with methyl iodide to give (2RS,3SR)-3-(3-benzyloxyphenyl)-1-ethoxycarbonyl-3-methoxy-2-methylpyrrolidine in 65% yield as an oil.

reactant | 3-benzyloxybromobenzene | C(C1=CC=CC=C1)OC=1C=C(C=CC1)Br | C13H11BrO
reactant | 1-ethoxycarbonyl-2-methylpyrrolidin-3-one | C(C)OC(=O)N1C(C(CC1)=O)C | C8H13NO3
reactant | methyl iodide | CI | CH3I
product | (2RS,3SR)-3-(3-benzyloxyphenyl)-1-ethoxycarbonyl-3-methoxy-2-methylpyrrolidine | 65% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(N(CC1)C(=O)OCC)C)OC | C22H27NO4
